US07049438B2
4-(2,3-methylenedioxyanilino)-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline trihydrochloride
Using an analogous procedure to that described in Example 5, 4-chloro-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline (0.11 g) was reacted with 2,3-methylenedioxyaniline (0.045 g) in the presence of a 6M solution of hydrogen chloride in isopropanol to give the title compound, as a trihydrochloride salt (0.105 g), a portion of which was converted into the free base using an analogous procedure to that described in Example 3. The free base gave the following characterising data: NMR Spectrum: (CDCl3) 1.78 (br s, 4H), 2.3 (s, 3H), 2.5 (m, 2H), 2.6 (br s, 4H), 2.8 (d, 2H), 2.95 (m, 4H), 3.08 (d, 2H), 4.18 (m, 2H), 5.98 (s, 2H), 6.6 (d, 1H), 6.86 (m, 1H), 6.94 (s, 1H), 8.06 (d, 1H), 8.5 (s, 1H), 11.8 (s, 1H); Mass Spectrum: M+H+ 477.

reactant | 4-chloro-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline | 0.11 g | ClC1=NC=NC2=CC(=CC(=C12)N1CCN(CC1)C)OCCN1CCCC1 | C19H26ClN5O
reactant | 2,3-methylenedioxyaniline | 0.045 g | C1OC2=C(N)C=CC=C2O1 | C7H7NO2
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2,3-methylenedioxyanilino)-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline trihydrochloride | Cl.Cl.Cl.C1OC2=C(NC3=NC=NC4=CC(=CC(=C34)N3CCN(CC3)C)OCCN3CCCC3)C=CC=C2O1 | InChI=1S/C26H32N6O3.3ClH/c1-30-9-11-32(12-10-30)22-16-19(33-14-13-31-7-2-3-8-31)15-21-24(22)26(28-17-27-21)29-20-5-4-6-23-25(20)35-18-34-23;;;/h4-6,15-17H,2-3,7-14,18H2,1H3,(H,27,28,29);3*1H
